US04621302
For instance, a Grignard reagent prepared from bromonaphthalene is reacted with acetophenone to obtain 1-phenyl-1-naphthylethanol which is then dehydrated to obtain 1-phenyl-1-naphthylethylene. Further, a Grignard reagent prepared from bromoanthracene is reacted with acetaldehyde to obtain hydroxyethylanthracene which is then dehydrated to obtain vinylanthracene.

reactant | bromoanthracene | BrC1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H9Br
reactant | acetaldehyde | C(C)=O | C2H4O
product | hydroxyethylanthracene | OCCC1=CC=CC2=CC3=CC=CC=C3C=C12 | C16H14O
